US04337341
Following the procedure set forth in Example 1, 2-(3-methoxyphenyl)-2-ethoxycarbonylmethylcyclohexanone was reacted with ethyl formate in the presence of metallic sodium to provide 2-(3-methoxyphenyl)-2-ethoxycarbonylmethyl-6-formylcyclohexanone.

reactant | 2-(3-methoxyphenyl)-2-ethoxycarbonylmethylcyclohexanone | COC=1C=C(C=CC1)C1(C(CCCC1)=O)CC(=O)OCC | C17H22O4
reactant | ethyl formate | C(=O)OCC | C3H6O2
reactant | sodium | [Na] | Na
product | 2-(3-methoxyphenyl)-2-ethoxycarbonylmethyl-6-formylcyclohexanone | COC=1C=C(C=CC1)C1(C(C(CCC1)C=O)=O)CC(=O)OCC | C18H22O5
